US08071807B2
{4-Hydroxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester (0.40 g, 0.92 mmol), sodium chlorodifluoroacetate (0.282 g, 1.86 mmol), and potassium carbonate (0.14 g, 1.02 mmol) were combined in DMF:H2O (8.5:1; 4.6 mL) and degassed with N2 for 15 minutes. The reaction was then stirred at 100° C. for 4 hours. After work-up with EtOAc and 1N aqueous HCl, the residue was purified by silica gel chromatography to give {4-difluoromethoxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester.

reactant | {4-Hydroxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | 0.92 mmol, 0.40 g | COC(CC1=CC(=C(C=C1)O)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C18H16F3NO6S
reactant | sodium chlorodifluoroacetate | 1.86 mmol, 0.282 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | potassium carbonate | 1.02 mmol, 0.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF H2O | 4.6 mL | CN(C)C=O.O
product | {4-difluoromethoxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC(F)F)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C19H16F5NO6S
